US07658770B2
0.5 g N-(2-bromoethyl)-4-[(4,5-dimethyl-1,3-thiazol-2-yl)diazenyl]-N-ethylaniline is dissolved in 10 ml acetonitrile followed by subsequent addition of 5.3 g 1-methyl-1H-imidazole. The reaction mixture is heated at 80° C. overnight. After cooling to room temperature, the formed precipitate is filtered off, washed with acetonitrile, and dried under vacuum at 40° C. 0.49 g of 1-{2-[{4-[(4,5-dimethyl-1,3-thiazol-2-yl)diazenyl]phenyl}(ethyl)amino]ethyl}-3-methyl-1H-imidazol-3-ium bromide are obtained as a red crystals.

reactant | N-(2-bromoethyl)-4-[(4,5-dimethyl-1,3-thiazol-2-yl)diazenyl]-N-ethylaniline | 0.5 g | BrCCN(C1=CC=C(C=C1)N=NC=1SC(=C(N1)C)C)CC | C15H19BrN4S
reactant | 1-methyl-1H-imidazole | 5.3 g | CN1C=NC=C1 | C4H6N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-{2-[{4-[(4,5-dimethyl-1,3-thiazol-2-yl)diazenyl]phenyl}(ethyl)amino]ethyl}-3-methyl-1H-imidazol-3-ium bromide | 0.49 g | [Br-].CC=1N=C(SC1C)N=NC1=CC=C(C=C1)N(CCN1C=[N+](C=C1)C)CC | InChI=1S/C19H25N6S.BrH/c1-5-25(13-12-24-11-10-23(4)14-24)18-8-6-17(7-9-18)21-22-19-20-15(2)16(3)26-19;/h6-11,14H,5,12-13H2,1-4H3;1H/q+1;/p-1
